US09102591B2
2-chloro-N-((4-(2-methylpyrimidin-5-yl)tetrahydro-2H-pyran-4-yl)methyl)benzamide
From 2-chlorobenzoic acid and (4-(2-methylpyrimidin-5-yl)tetrahydro-2H-pyran-4-yl)methanamine. LCMS (MH+): m/z=346.1, tR (minutes, Method F)=1.55

reactant | 2-chlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
reactant | (4-(2-methylpyrimidin-5-yl)tetrahydro-2H-pyran-4-yl)methanamine | CC1=NC=C(C=N1)C1(CCOCC1)CN | C11H17N3O
product | 2-chloro-N-((4-(2-methylpyrimidin-5-yl)tetrahydro-2H-pyran-4-yl)methyl)benzamide | ClC1=C(C(=O)NCC2(CCOCC2)C=2C=NC(=NC2)C)C=CC=C1 | C18H20ClN3O2
